US09023846B2
2-Chloro-6-(2,6-dichlorophenyl)-3-nitropyridin-4-ylamine (28.7 mg, 0.0901 mmol, prepared as described in the previous step) was placed in a 8 mL vial equipped with a stir bar and anhydrous MeOH (1 mL) was added via syringe. NaOMe (0.5 M in MeOH, (0.396 mL, 0.198 mmol) was added to the stirred mixture, which was then stirred at 65° C. for 4 h. The solvent was removed under reduced pressure and the residue was chromatographed on a 12-g SiO2 pre-packed column eluting with 0:1-2:3 EtOAc/heptane to yield 6-(2,6-dichlorophenyl)-2-methoxy-3-nitropyridin-4-ylamine. 1H-NMR (400 MHz, CDCl3) δ: 7.37-7.41 (m, 2H), 7.25-7.30 (m, 1H), 6.35 (s, 1H), 6.15 (br. s., 2H), 4.01 (s, 3H).

reactant | 2-Chloro-6-(2,6-dichlorophenyl)-3-nitropyridin-4-ylamine | ClC1=NC(=CC(=C1[N+](=O)[O-])N)C1=C(C=CC=C1Cl)Cl | C11H6Cl3N3O2
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | MeOH | 0.198 mmol, 0.396 mL | CO | CH4O
product | 6-(2,6-dichlorophenyl)-2-methoxy-3-nitropyridin-4-ylamine | ClC1=C(C(=CC=C1)Cl)C1=CC(=C(C(=N1)OC)[N+](=O)[O-])N | C12H9Cl2N3O3
